US08835449B2
2-(6-(5-Chloro-2-methoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide
A reaction vessel equipped with an efficient stirrer was charged with (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate (15 g, 50.2 mmol), butyl acetate (150 mL) and trimethylsilyl isothiocyanate (160.7 mmole, 21.1 g, 22.7 mL) and the mixture was heated to reflux. After 15 hours, the mixture was cooled to 30° C. and treated with 1 N aqueous sodium hydroxide (112.5 mL, 112.5 mmoles). After 30 min, the organic layer was separated and extracted with another portion of 1 N sodium hydroxide (37.5 mL, 37.5 mmoles). The combined aqueous phases were extracted twice with dichloromethane (2×45 mL), filtered, and treated with 6N HCl until a pH of 2.5 was achieved. After stirring for 1 hour, the resulting solid was isolated by vacuum filtration, resuspended in 100 mL of a 1:1 methanol-water solution, heated with stirring at 50° C. for 2 hours, and cooled to room temperature before collecting the solid by vacuum filtration, pulling dry and drying in a vacuum oven (20 mm Hg, 50° C.) for 12 hours to afford 8.7 g of the desired product as a tan solid.

reactant | (Z)-ethyl 3-((2-amino-2-oxoethyl)amino)-3-(5-chloro-2-methoxyphenyl)acrylate | 50.2 mmol, 15 g | NC(CN\C(=C/C(=O)OCC)\C1=C(C=CC(=C1)Cl)OC)=O | C14H17ClN2O4
reactant | butyl acetate | 150 mL | C(C)(=O)OCCCC | C6H12O2
reactant | trimethylsilyl isothiocyanate | 160.7 mmole, 22.7 mL, 21.1 g | C[Si](C)(C)N=C=S | C4H9NSSi
reactant | sodium hydroxide | 112.5 mmoles, 1 N, 112.5 mL | [OH-].[Na+]
reactant | sodium hydroxide | 37.5 mmoles, 1 N, 37.5 mL | [OH-].[Na+]
solvent | methanol water | 100 mL | CO.O
product | 2-(6-(5-Chloro-2-methoxyphenyl)-4-oxo-2-thioxo-3,4-dihydropyrimidin-1(2H)-yl)acetamide | 8.7 g | ClC=1C=CC(=C(C1)C1=CC(NC(N1CC(=O)N)=S)=O)OC | C13H12ClN3O3S
